US09034866B2
Cyclobutanone (0.2 g) was subjected to similar to as described in Procedure A to form crude 1-ethynylcyclobutanol which was reacted with 10-bromo-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide (0.1 g) via similar to as described in Procedure E to afford 33.8 mg of 9-fluoro-10-((1-hydroxycyclobutyl)ethynyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide after triteration from methanol and activated charcoal treatment. The mother liquor was concentrated and purified by reverse phase hplc to afford and additional 8.9 mg of product. MS (Q1) 342 (M)+. 1H NMR (400 MHz, DMSO) δ 8.59 (d, J=8.5 Hz, 1H), 7.78 (s, 1H), 7.57 (s, 1H), 7.12 (s, 1H), 7.01 (d, J=10.6 Hz, 1H), 5.94 (s, 1H), 4.50 (dd, J=14.9, 5.3 Hz, 4H), 2.44-2.36 (m, 2H), 2.23 (m, 3H), 1.89-1.70 (m, 2H).

reactant | Cyclobutanone | 0.2 g | C1(CCC1)=O | C4H6O
reactant | 10-bromo-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 0.1 g | BrC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)F | C12H9BrFN3O2
reactant | charcoal | C | CH4
reactant | methanol | CO | CH4O
product | 9-fluoro-10-((1-hydroxycyclobutyl)ethynyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 33.8 mg | FC1=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C=C1C#CC1(CCC1)O | C18H16FN3O3
